US07829560B2
Ethyl 4-[4-({4-[(3-fluoro-5-piperidin-1-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]piperazine-1-carboxylate (Compound B376).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and piperazine-1-carboxylic acid ethyl ester according to conditions described in general procedure C. Mp: 105-106° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.14-1.18 (m, 3 H), 1.60-1.62 (m, 6 H), 3.11-3.33 (m, 8 H), 3.52 (s, 4 H), 4.00-4.05 (m, 2 H), 6.22-6.24 (m, 1 H), 6.97 (d, J=11.3 Hz, 2 H), 7.17 (d, J=9.1 Hz, 1 H), 7.42-7.45 (m, 1 H), 7.48 (s, 1 H), 7.57-7.62 (m, 3 H), 7.85 (d, J=8.0 Hz, 1 H), 7.99 (d, J=8.0 Hz, 1 H), 8.29-8.30 (m, 1 H), 10.46 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
product | Ethyl 4-[4-({4-[(3-fluoro-5-piperidin-1-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]piperazine-1-carboxylate | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CCN(CC2)C(=O)OCC)C=C(C1)N1CCCCC1 | C33H35FN6O4
